US07902401B2
2-Amino-N-benzyl-3-difluoromethoxy-propionamide (195 mg, 0.80) was mixed with triethylamine (322 mg, 3.19 mmol) in THF (5 mL). Acetic anhydride (98.5 mg, 0.96 mmol) was then added and the reaction mixture stirred for 1 hour. The mixture was then diluted with ethyl acetate and washed with water. The organic layer was dried and concentrated. The residue was purified by column chromatography using hexanes:ethyl acetate (50:50 to 0:100). The isolated product was triturated with diethyl ether to give 2-acetylamino-N-benzyl-3-difluoromethoxy-propionamide (135 mg, 59%) as a white solid.

reactant | 2-Amino-N-benzyl-3-difluoromethoxy-propionamide | 195 mg | NC(C(=O)NCC1=CC=CC=C1)COC(F)F | C11H14F2N2O2
reactant | triethylamine | 3.19 mmol, 322 mg | C(C)N(CC)CC | C6H15N
reactant | Acetic anhydride | 0.96 mmol, 98.5 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-acetylamino-N-benzyl-3-difluoromethoxy-propionamide | 135 mg, 59% | C(C)(=O)NC(C(=O)NCC1=CC=CC=C1)COC(F)F | C13H16F2N2O3
